US09062033B2
methyl 6-methyl-3-phenylpicolinate (D56)
To a suspension of methyl-3-iodo-6-methylpyridine-2-carboxylate (1 g, 3.6 mmol; prepared according to WO2010063663), Phenyl Boronic Acid (440 mg, 3.6 mmol) and Pd Tetrakistriphenylphospine (417 mg; 0.36 mmol) in dry toluene (12 ml) was added K2CO3 1M aq solution (3.6 ml, 3.6 mmol). The mixture was heated in a microwave oven for 5 min at 120° C. (procedure was repeated for 4 times). To promote the reaction further Tetrakistriphenylphospine palladium (208.5 mg; 0.18 mmol)) and phenyl boronic acid (220 mg, 0.18 mmol) were added. The mixture was subject to 2 cycles of microwave heating at 140° C. for 10 min. The reaction mixture was diluted with AcOEt (10 mL) and water (10 mL). The organic layer was separated, washed with brine, dried with Na2SO4 and filtrated. The solvent was evaporated under reduced pressure and the crude mixture purified on silica gel column (Cyclohexane to Cyclohexane/AcOEt 9:1) to obtain 506 mg of the title compound as yellow oil.

reactant | methyl-3-iodo-6-methylpyridine-2-carboxylate | 3.6 mmol, 1 g | COC(=O)C1=NC(=CC=C1I)C | C8H8INO2
reactant | Phenyl Boronic Acid | 3.6 mmol, 440 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
reactant | phenyl boronic acid | 0.18 mmol, 220 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | methyl 6-methyl-3-phenylpicolinate | 506 mg | CC1=CC=C(C(=N1)C(=O)OC)C1=CC=CC=C1 | C14H13NO2
